US07348337B2
Preparation of 4-Methoxy-7-(3-oxo-1-butyn-1-yl)-6-azaindole:
To a solution of 4-methoxy-7-(3-hydroxy-1-butyn-1-yl)-6-azaindole (0.200 g, 0.88 mmol) in CH2Cl2 (25 mL) was added activated MnO2 (1.72 g) and the reaction mixture was stirred for 12 h. The mixture was then filtered through Celite and the filtrate was concentrated to afford the title compound (0.152 g, 80%) as a light brown solid:

reactant | 4-methoxy-7-(3-hydroxy-1-butyn-1-yl)-6-azaindole | 0.88 mmol, 0.200 g | COC1=C2C=CNC2=C(N=C1)C#CC(C)O | C12H12N2O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 1.72 g | O=[Mn]=O
product | 4-Methoxy-7-(3-oxo-1-butyn-1-yl)-6-azaindole | 0.152 g, 80% | COC1=C2C=CNC2=C(N=C1)C#CC(C)=O | C12H10N2O2
